US04636504
4.0 g (10 millimoles) of 6-[p-(3-(4-phenylpiperid-1-yl)-propionylamino)-phenyl]-4,5-dihydro-3(2H)-pyridazinone in 15 ml of ethanol were refluxed with 1.5 ml of 37% strength formalin solution and 40 ml of 4% strength ethanolic KOH for 3 hours. Insoluble material was filtered off under suction, after which the mother liquor was evaporated down and the product was recrystallized from isopropanol. 2.2 g of 6-[p-(3-(4-phenylpiperid-1-yl)-propionylamino)-phenyl]-4-methyl-3(2H)-pyridazinone were obtained as pale beige crystals of melting point 239°-240° C.

reactant | 6-[p-(3-(4-phenylpiperid-1-yl)-propionylamino)-phenyl]-4,5-dihydro-3(2H)-pyridazinone | 10 millimoles, 4.0 g | C1(=CC=CC=C1)C1CCN(CC1)CCC(=O)NC1=CC=C(C=C1)C=1CCC(NN1)=O | C24H28N4O2
reactant | formalin | C=O | CH2O
reactant | KOH | [OH-].[K+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 6-[p-(3-(4-phenylpiperid-1-yl)-propionylamino)-phenyl]-4-methyl-3(2H)-pyridazinone | 2.2 g | C1(=CC=CC=C1)C1CCN(CC1)CCC(=O)NC1=CC=C(C=C1)C=1C=C(C(NN1)=O)C | C25H28N4O2
